US04187316
A solution of 240 mg (1 m mole) of 3-tert-butoxycarbonylamino-1,5-cyclohexadiene carboxylic acid and 5 ml of dichloromethane is treated with 202 mg (2 m mole) of triethylamine and 94 mg (1 mole) of methyl chloroformate. After 30 minutes at 25° C. the solution is treated with 103 mg (1 m mole) of alanine methylester and maintained at 25° C. for 1 hour after which the solution is washed with water, dryed and concentrated. The residue is treated with 3 ml of methanol and 120 mg of sodium hydroxide in 2 ml of water for 3 hours at 25° C. then solidified and extracted with dichloromethane. The organic phase is dryed and concentrated. The residue is treated with 7 ml of methanol containing 5% HCl for 18 hours at 25° C. Evaporation affords N-(3-amino-1,5-cyclohexadienyl)carbonylalanine hydrochloride.

reactant | 3-tert-butoxycarbonylamino-1,5-cyclohexadiene carboxylic acid | 240 mg | C(C)(C)(C)OC(=O)NC1C=C(C=CC1)C(=O)O | C12H17NO4
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | methyl chloroformate | 1 mole, 94 mg | ClC(=O)OC | C2H3ClO2
reactant | alanine methylester | 103 mg | COC([C@@H](N)C)=O | C4H9NO2
solvent | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
product | N-(3-amino-1,5-cyclohexadienyl)carbonylalanine hydrochloride | Cl.NC1C=C(C=CC1)C(=O)N[C@@H](C)C(=O)O | InChI=1S/C10H14N2O3.ClH/c1-6(10(14)15)12-9(13)7-3-2-4-8(11)5-7;/h2-3,5-6,8H,4,11H2,1H3,(H,12,13)(H,14,15);1H/t6-,8?;/m0./s1
